US05639748
6-Chloro-2,3,4,5-tetrahydro-3-methyl-9-(4-pyridinylmethoxy)-1H-3-benzazepin
Using the general procedure of Example 2, replacing 1-(chloromethyl)-1H-pyrazole with 2-(chloromethyl)furan, 3-(bromomethyl) furan, 2-(3-chloro-1-propenyl)furan, 2-(bromomethyl)thiophene, 3-(bromomethyl)thiophene, 2-(1H-pyrazol-1-yl)ethyl 4-methylbenzenesulfonate, 1-(chloro-methyl)-1H-1,2,4-triazole, and 4-(chloromethyl)pyridine hydrochloride gave:

reactant | 2-(chloromethyl)furan | ClCC=1OC=CC1 | C5H5ClO
reactant | 3-(bromomethyl) furan | BrCC1=COC=C1 | C5H5BrO
reactant | 2-(3-chloro-1-propenyl)furan | ClCC=CC=1OC=CC1 | C7H7ClO
reactant | 2-(bromomethyl)thiophene | BrCC=1SC=CC1 | C5H5BrS
reactant | 3-(bromomethyl)thiophene | BrCC1=CSC=C1 | C5H5BrS
reactant | 2-(1H-pyrazol-1-yl)ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCN1N=CC=C1 | C12H14N2O3S
reactant | 1-(chloro-methyl)-1H-1,2,4-triazole | ClCN1N=CN=C1 | C3H4ClN3
reactant | 4-(chloromethyl)pyridine hydrochloride | Cl.ClCC1=CC=NC=C1
product | 6-Chloro-2,3,4,5-tetrahydro-3-methyl-9-(4-pyridinylmethoxy)-1H-3-benzazepin | ClC1=CC=C(C=2CCN(CCC21)C)OCC2=CC=NC=C2 | C17H19ClN2O
